US09102591B2
2,3-Dichloro-N-[4,4-difluoro-1-(6-methoxy-pyridin-3-yl)-cyclohexylmethyl]-benzamide
From 2,3-dichlorobenzoic acid and C-[4,4-difluoro-1-(6-methoxy-pyridin-3-yl)-cyclohexyl]-methylamine. LCMS (MH +) m/z=429.1, tR (minutes, Method D)=0.67

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | C-[4,4-difluoro-1-(6-methoxy-pyridin-3-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=CC1)OC)CN)F | C13H18F2N2O
product | 2,3-Dichloro-N-[4,4-difluoro-1-(6-methoxy-pyridin-3-yl)-cyclohexylmethyl]-benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)OC)C=CC=C1Cl | C20H20Cl2F2N2O2
